US07585886B2
Using the (3R,4S)-1-benzyl-3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-(2-methylphenyl)pyrrolidine obtained in Reference Example 127 which is described later, the elimination of benzyl group and amidation with monoethyl adipate were carried out in that order in the same manner as in Reference Example 16 and Reference Example 50 to produce ethyl 6-[(3R,4S)-3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-(2-methylphenyl)pyrrolidin-1-yl]-6-oxohexanoate.

reactant | (3R,4S)-1-benzyl-3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-(2-methylphenyl)pyrrolidine | C(C1=CC=CC=C1)N1C[C@@H]([C@H](C1)C1=C(C=CC=C1)C)CO[Si](C)(C)C(C)(C)C | C25H37NOSi
reactant | monoethyl adipate | C(CCCCC(=O)[O-])(=O)OCC
product | ethyl 6-[(3R,4S)-3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-(2-methylphenyl)pyrrolidin-1-yl]-6-oxohexanoate | [Si](C)(C)(C(C)(C)C)OC[C@H]1CN(C[C@@H]1C1=C(C=CC=C1)C)C(CCCCC(=O)OCC)=O | C26H43NO4Si
